US06166246
1.76 g (0.01 mole) of 2,4,6-trifluorobenzoic acid, 1.62 g (0.04 mole) of powdery 99% sodium hydroxide and 20 ml of 1-methyl-2-pyrrolidone were fed into a 100-ml four-necked flask provided with a thermometer, a stirrer and a reflux condenser. The mixture was stirred at 130° C. for 3 hours to give rise to a reaction. Then, the same post-treatment as in Example 2 was conducted to obtain 1.47 g of 4,6-difluorosalicylic acid. The isolated yield was 84.3% relative to the 2,4,6-trifluorobenzoic acid used.

reactant | 2,4,6-trifluorobenzoic acid | 0.01 mole, 1.76 g | FC1=C(C(=O)O)C(=CC(=C1)F)F | C7H3F3O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1-methyl-2-pyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
product | 4,6-difluorosalicylic acid | 1.47 g, yield was 84.3% | FC=1C=C(C(C(=O)O)=C(C1)F)O | C7H4F2O3
